.TITLE DFF

.SUBCKT INV IN OUT
.param NFIN_SIZE=1
*Mxxx   Drain	Gate	Source	Bulk	Model
*MP1     OUT     IN      VDD     VDD     pmos_lvt   W=2.7e-8    L=2e-8  nfin=1
M1 OUT IN VDD VDD pmos_lvt W=2.7e-8 L=2e-8 nfin=NFIN_SIZE
M2 OUT IN GND GND nmos_lvt W=2.7e-8 L=2e-8 nfin=NFIN_SIZE
.ends 

.SUBCKT SWITCH EN IN OUT
x_INV EN EN_B INV
M1 IN EN OUT GND nmos_lvt W=2.7e-8 L=2e-8 nfin=1
M2 OUT EN_B IN VDD pmos_lvt W=2.7e-8 L=2e-8 nfin=1
.ends

.SUBCKT BUF IN OUT
.param NFIN_SIZE=1

M1 OUT1 IN VDD VDD pmos_lvt W=2.7e-8 L=2e-8 nfin=NFIN_SIZE
M2 OUT1 IN GND GND nmos_lvt W=2.7e-8 L=2e-8 nfin=NFIN_SIZE
M3 OUT OUT1 VDD VDD pmos_lvt W=2.7e-8 L=2e-8 nfin=NFIN_SIZE
M4 OUT OUT1 GND GND nmos_lvt W=2.7e-8 L=2e-8 nfin=NFIN_SIZE
.ends 

.SUBCKT DFF CLK D Q
x_INV1 CLK CLK_B INV 

x_SWITCH1 CLK_B D SWITCH1_OUT SWITCH
x_INV2 SWITCH1_OUT QM_B INV
x_INV3 QM_B INV3_OUT INV
x_SWITCH2 CLK INV3_OUT SWITCH1_OUT SWITCH

x_SWITCH3 CLK QM_B QM_B_IN SWITCH
x_INV4 QM_B_IN Q INV
x_INV5 Q INV5_OUT INV
x_SWITCH4 CLK_B INV5_OUT QM_B_IN SWITCH
.ends